US06969710B2
N-ethyl-5-(4-methyl-1-piperazinyl)-2-nitroaniline was prepared from 2,4-difluoro-1-nitrobenzene and methylpiperazine using the same method described for N-ethyl-2-nitro-5-(1-piperazinyl)aniline and was obtained as yellow solid (99%). 1H NMR (CDCl3) δ 8.30 (br s, 1H), 8.08-8.04 (m, 1H), 6.25-6.20 (m, 1H), 5.89-5.86 (m, 1H), 3.45-3.39 (m, 4H), 3.35-3.25 (m, 2H), 2.56-2.50 (m, 4H), 2.35 (s, 3H), 1.37 (tr, J=7.2 Hz, 3)); 13C NMR δ (CDCl3) 155.92, 147.72, 128.99, 124.19, 104.30, 94.37, 54.78, 47.05, 46.25, 37.73, 14.43; MS (posESI) m/z=found 264.1575, calc 264.1586. Anal. (C13H20N4O2.0.5 H2O) C, H, O.

reactant | 2,4-difluoro-1-nitrobenzene | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | N-ethyl-2-nitro-5-(1-piperazinyl)aniline | C(C)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-] | C12H18N4O2
product | N-ethyl-5-(4-methyl-1-piperazinyl)-2-nitroaniline | C(C)NC1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-] | C13H20N4O2
